US08754229B2
Methyl 4-amino-6-bromo-3-methoxypicolinate (1 g, 3.83 mmol), tributyl(vinyl)stannane (1.822 g, 5.75 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.403 g, 0.575 mmol) in DCE (12.77 ml) were stirred at 70° C. overnight. The mixture was adsorbed onto celite and purified by flash column chromatography (ISCO, SiO2 40 g, hexane/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-amino-3-methoxy-6-vinylpicolinate (263 mg, 1.263 mmol, 33% yield) as a yellow oil. EIMS m/z 208; 1H NMR (400 MHz, CDCl3) δ 6.86 (s, 1H), 6.71 (dd, J=17.6, 10.9 Hz, 1H), 5.98 (dd, J=17.6, 1.0 Hz, 1H), 5.42 (dd, J=10.9, 1.0 Hz, 1H), 4.45 (s, 2H), 3.97 (s, 3H), 3.87 (s, 3H). 13C NMR (101 MHz, CDCl3) δ 165.94, 152.06, 148.02, 143.34, 141.60, 136.73, 118.02, 108.63, 61.49, 52.84.

reactant | Methyl 4-amino-6-bromo-3-methoxypicolinate | 3.83 mmol, 1 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
reactant | tributyl(vinyl)stannane | 5.75 mmol, 1.822 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | DCE | 12.77 ml | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.575 mmol, 0.403 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-amino-3-methoxy-6-vinylpicolinate | 1.263 mmol, 263 mg, 33% yield | NC1=C(C(=NC(=C1)C=C)C(=O)OC)OC | C10H12N2O3
